US07601722B2
In an analogous manner to general procedure V, 1-[(2Z)-4-chlorobut-2-en-1-yl]-3-(2-fluoro-4-methylphenyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide was reacted with ethylamine to provide (2Z)-N-ethyl-4-[3-(2-fluoro-4-methylphenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]but-2-en-1-amine hydrochloride:

reactant | 1-[(2Z)-4-chlorobut-2-en-1-yl]-3-(2-fluoro-4-methylphenyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide | ClC\C=C/CN1S(N(C2=C1C=CC=C2)C2=C(C=C(C=C2)C)F)(=O)=O | C17H16ClFN2O2S
reactant | ethylamine | C(C)N | C2H7N
product | (2Z)-N-ethyl-4-[3-(2-fluoro-4-methylphenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]but-2-en-1-amine hydrochloride | Cl.C(C)NC\C=C/CN1S(N(C2=C1C=CC=C2)C2=C(C=C(C=C2)C)F)(=O)=O | InChI=1S/C19H22FN3O2S.ClH/c1-3-21-12-6-7-13-22-18-8-4-5-9-19(18)23(26(22,24)25)17-11-10-15(2)14-16(17)20;/h4-11,14,21H,3,12-13H2,1-2H3;1H/b7-6-;
